US07151105B2
To a solution of NaOMe (24 mL, 25% wt in MeOH, 0.105 mol, 4.3 mol %) in MeOH (2.4 L) was added diethoxyacetonitrile (310 g, 2.40 mol), and the reaction mixture was stirred at room temperature for 24 h. The solvent was removed in vacuo (300 mbar, 44° C.) and the brown oily residue was dissolved into Et2O (2.4 L). The organic solution was washed with water (3×500 mL) and brine (1×400 mL), and dried over Na2SO4. The solvent was removed in vacuo at 0° C. to yield methyl 2,2-diethoxyethanimidoate (333.32 g, 86%) as a clear liquid. To a solution of NaOMe (25% wt in MeOH, 424 g, 2 mol) and MeOH (2 L), was added ethylhydrazine oxalate (150.14 g, 1 mol), and the mixture was stirred for 10 min. Methyl 2,2-diethoxyethanimidoate (161.2 g, 1 mol) was added, and the mixture was stirred at room temperature for 3 h under a blanket of Nitrogen. The product, (1Z)-2,2-diethoxy-N-ethylethanehydrazonamide was used in situ. The crude (1Z)-2,2-diethoxy-N-ethylethanehydrazonamide was treated with acetimidate hydrochloride (109.6 g, 1 mol) and glacial acetic acid (90 g, 1.5 mol), and the mixture was stirred at room temperature for 24 h under nitrogen. LCMS indicated that no reaction had occurred after 24 h. The solvent was removed under vacuum from the reaction mixture and the residue was stored in the freezer. After 8 days the residue was removed from the freezer, warmed to room temperature, and treated with MeOH (1.5 L), acetic Acid (85.7 mL), and acetimidate HCl (98 g, 0.89 mol) from a new bottle, and this mixture was stirred at room temperature for 24 h. LCMS indicated that the starting materials had been consumed and that some of the desired product was present. The solvent was removed in vacuo and H2O (1.5 L) was added to the residue. The mixture was extracted with DCM (5×1 L), and the combined organic layers were dried over Na2SO4. The solvent was removed under vacuum to afford 163 g of a crude red oil. The product was purified by flash chromatography using 2% MeOH/DMC as eluent (RF=0.3) affording 56.86 g (23%) of 3-(diethoxymethyl)-1-ethyl-5-methyl-1H-1,2,4-triazole as a red oil, which was 96% pure by 1H NMR.

reactant | NaOMe | 2 mol, 424 g | C[O-].[Na+]
reactant | ethylhydrazine oxalate | 1 mol, 150.14 g | C(C(=O)O)(=O)O.C(C)NN
reactant | Methyl 2,2-diethoxyethanimidoate | 1 mol, 161.2 g | C(C)OC(C(OC)=N)OCC | C7H15NO3
reactant | (1Z)-2,2-diethoxy-N-ethylethanehydrazonamide | C(C)OC(/C(/NCC)=N/N)OCC | C8H19N3O2
reactant | acetimidate hydrochloride | 1 mol, 109.6 g | Cl.C(C)(O)=N
reactant | acetimidate HCl | 0.89 mol, 98 g | Cl.C(C)(O)=N
solvent | acetic Acid | 85.7 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 1.5 L | CO | CH4O
solvent | MeOH | 2 L | CO | CH4O
solvent | acetic acid | 1.5 mol, 90 g | C(C)(=O)O | C2H4O2
product | 3-(diethoxymethyl)-1-ethyl-5-methyl-1H-1,2,4-triazole | 56.86 g, 23% | C(C)OC(C1=NN(C(=N1)C)CC)OCC | C10H19N3O2
